US09024093B2
N-Boc-4-(Trifluoromethanesulfonyl)-L-phenylalanine Methyl Ester (S64)
To N-Boc-L-tyrosine methyl ester (295 mg, 1.00 mmol, 1.00 equiv) in CH2Cl2 (2.0 mL) at 23° C. was added triethylamine (418 □L, 3.00 mmol, 3.00 equiv), DMAP (12 mg, 0.10 mmol, 0.10 equiv) and N-phenylbis(trifluoromethanesulfonimide) (535 mg, 1.50 mmol, 1.50 equiv) and the reaction mixture was stirred for 3 hr at 23° C. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with hexanes/EtOAc 3:1 (v/v) to afford 410 mg of the title compound as a colorless solid (96% yield).

reactant | N-Boc-L-tyrosine methyl ester | 1.00 mmol, 295 mg, 1.00 equiv | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
reactant | triethylamine | 3.00 mmol, 3.00 equiv | C(C)N(CC)CC | C6H15N
reactant | N-phenylbis(trifluoromethanesulfonimide) | 1.50 mmol, 535 mg, 1.50 equiv | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.10 mmol, 12 mg, 0.10 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-Boc-4-(Trifluoromethanesulfonyl)-L-phenylalanine Methyl Ester | 410 mg, 96% yield | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O | C16H20F3NO6S
